* bpf_le - lumped-element equivalent (ngspice / SPICE3)
* generated by snp2le
* PDK: IHP SG13G2 (ihp-sg13g2) - IHP
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT bpf_le p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.00135903038
Fd1_1 0 s1 V1 -0.06795151899
Gr1_re_1_1 0 s1 x1_re_a1 0 -2.03440287e+11
Gr1_im_1_1 0 s1 x1_im_a1 0 -3.634616408e+10
Gr2_re_1_1 0 s1 x2_re_a1 0 1.686305956e+10
Gr2_im_1_1 0 s1 x2_im_a1 0 -5.945331451e+10
Gr3_re_1_1 0 s1 x3_re_a1 0 4.680378047e+10
Gr3_im_1_1 0 s1 x3_im_a1 0 -3.343685222e+10
Gd1_2 0 s1 p2 0 0.001064045615
Fd1_2 0 s1 V2 0.05320228073
Gr1_re_1_2 0 s1 x1_re_a2 0 -1.246525411e+11
Gr1_im_1_2 0 s1 x1_im_a2 0 -1.229890636e+11
Gr2_re_1_2 0 s1 x2_re_a2 0 3.19136599e+10
Gr2_im_1_2 0 s1 x2_im_a2 0 -794081106.6
Gr3_re_1_2 0 s1 x3_re_a2 0 1.343602346e+10
Gr3_im_1_2 0 s1 x3_im_a2 0 -7.840445472e+10
Gd1_3 0 s1 p3 0 -0.0008051656617
Fd1_3 0 s1 V3 -0.04025828309
Gr1_re_1_3 0 s1 x1_re_a3 0 1.059978989e+11
Gr1_im_1_3 0 s1 x1_im_a3 0 -1.018630826e+11
Gr2_re_1_3 0 s1 x2_re_a3 0 -1.895582251e+10
Gr2_im_1_3 0 s1 x2_im_a3 0 7.681082615e+10
Gr3_re_1_3 0 s1 x3_re_a3 0 -4.229102776e+10
Gr3_im_1_3 0 s1 x3_im_a3 0 3.007888615e+10
Gd1_4 0 s1 p4 0 -0.003097367713
Fd1_4 0 s1 V4 -0.1548683856
Gr1_re_1_4 0 s1 x1_re_a4 0 7.209785398e+10
Gr1_im_1_4 0 s1 x1_im_a4 0 -6.879073295e+10
Gr2_re_1_4 0 s1 x2_re_a4 0 -2.224676351e+10
Gr2_im_1_4 0 s1 x2_im_a4 0 -5.040789069e+10
Gr3_re_1_4 0 s1 x3_re_a4 0 -1.89300638e+10
Gr3_im_1_4 0 s1 x3_im_a4 0 6.443091e+10
Cx1_re_a1 x1_re_a1 0 1
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562
Fx1_re_a1 0 x1_re_a1 V1 7.071067812
Rp1_re_re_a1 0 x1_re_a1 1.399967176e-12
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 5.930923456e+11
Cx1_im_a1 x1_im_a1 0 1
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -5.930923456e+11
Rp1_im_im_a1 0 x1_im_a1 1.399967176e-12
Cx2_re_a1 x2_re_a1 0 1
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562
Fx2_re_a1 0 x2_re_a1 V1 7.071067812
Rp2_re_re_a1 0 x2_re_a1 2.57107262e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 1.32214295e+12
Cx2_im_a1 x2_im_a1 0 1
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -1.32214295e+12
Rp2_im_im_a1 0 x2_im_a1 2.57107262e-12
Cx3_re_a1 x3_re_a1 0 1
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562
Fx3_re_a1 0 x3_re_a1 V1 7.071067812
Rp3_re_re_a1 0 x3_re_a1 3.025545542e-12
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 1.038352332e+12
Cx3_im_a1 x3_im_a1 0 1
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -1.038352332e+12
Rp3_im_im_a1 0 x3_im_a1 3.025545542e-12
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.001064045615
Fd2_1 0 s2 V1 0.05320228073
Gr1_re_2_1 0 s2 x1_re_a1 0 -1.246525411e+11
Gr1_im_2_1 0 s2 x1_im_a1 0 -1.229890636e+11
Gr2_re_2_1 0 s2 x2_re_a1 0 3.19136599e+10
Gr2_im_2_1 0 s2 x2_im_a1 0 -794081106.6
Gr3_re_2_1 0 s2 x3_re_a1 0 1.343602346e+10
Gr3_im_2_1 0 s2 x3_im_a1 0 -7.840445472e+10
Gd2_2 0 s2 p2 0 -0.001381903954
Fd2_2 0 s2 V2 -0.06909519769
Gr1_re_2_2 0 s2 x1_re_a2 0 -2.033576904e+11
Gr1_im_2_2 0 s2 x1_im_a2 0 -3.649978009e+10
Gr2_re_2_2 0 s2 x2_re_a2 0 1.694181838e+10
Gr2_im_2_2 0 s2 x2_im_a2 0 -5.936399285e+10
Gr3_re_2_2 0 s2 x3_re_a2 0 4.685415285e+10
Gr3_im_2_2 0 s2 x3_im_a2 0 -3.347740356e+10
Gd2_3 0 s2 p3 0 -0.003102014532
Fd2_3 0 s2 V3 -0.1551007266
Gr1_re_2_3 0 s2 x1_re_a3 0 7.226345812e+10
Gr1_im_2_3 0 s2 x1_im_a3 0 -6.868474203e+10
Gr2_re_2_3 0 s2 x2_re_a3 0 -2.220341142e+10
Gr2_im_2_3 0 s2 x2_im_a3 0 -5.033188937e+10
Gr3_re_2_3 0 s2 x3_re_a3 0 -1.900539074e+10
Gr3_im_2_3 0 s2 x3_im_a3 0 6.439417182e+10
Gd2_4 0 s2 p4 0 -0.000806179973
Fd2_4 0 s2 V4 -0.04030899865
Gr1_re_2_4 0 s2 x1_re_a4 0 1.060468886e+11
Gr1_im_2_4 0 s2 x1_im_a4 0 -1.018345978e+11
Gr2_re_2_4 0 s2 x2_re_a4 0 -1.896657998e+10
Gr2_im_2_4 0 s2 x2_im_a4 0 7.678106061e+10
Gr3_re_2_4 0 s2 x3_re_a4 0 -4.230868875e+10
Gr3_im_2_4 0 s2 x3_im_a4 0 3.011524524e+10
Cx1_re_a2 x1_re_a2 0 1
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562
Fx1_re_a2 0 x1_re_a2 V2 7.071067812
Rp1_re_re_a2 0 x1_re_a2 1.399967176e-12
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 5.930923456e+11
Cx1_im_a2 x1_im_a2 0 1
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -5.930923456e+11
Rp1_im_im_a2 0 x1_im_a2 1.399967176e-12
Cx2_re_a2 x2_re_a2 0 1
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562
Fx2_re_a2 0 x2_re_a2 V2 7.071067812
Rp2_re_re_a2 0 x2_re_a2 2.57107262e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 1.32214295e+12
Cx2_im_a2 x2_im_a2 0 1
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -1.32214295e+12
Rp2_im_im_a2 0 x2_im_a2 2.57107262e-12
Cx3_re_a2 x3_re_a2 0 1
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562
Fx3_re_a2 0 x3_re_a2 V2 7.071067812
Rp3_re_re_a2 0 x3_re_a2 3.025545542e-12
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 1.038352332e+12
Cx3_im_a2 x3_im_a2 0 1
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -1.038352332e+12
Rp3_im_im_a2 0 x3_im_a2 3.025545542e-12
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 -0.0008051656617
Fd3_1 0 s3 V1 -0.04025828309
Gr1_re_3_1 0 s3 x1_re_a1 0 1.059978989e+11
Gr1_im_3_1 0 s3 x1_im_a1 0 -1.018630826e+11
Gr2_re_3_1 0 s3 x2_re_a1 0 -1.895582251e+10
Gr2_im_3_1 0 s3 x2_im_a1 0 7.681082615e+10
Gr3_re_3_1 0 s3 x3_re_a1 0 -4.229102776e+10
Gr3_im_3_1 0 s3 x3_im_a1 0 3.007888615e+10
Gd3_2 0 s3 p2 0 -0.003102014532
Fd3_2 0 s3 V2 -0.1551007266
Gr1_re_3_2 0 s3 x1_re_a2 0 7.226345812e+10
Gr1_im_3_2 0 s3 x1_im_a2 0 -6.868474203e+10
Gr2_re_3_2 0 s3 x2_re_a2 0 -2.220341142e+10
Gr2_im_3_2 0 s3 x2_im_a2 0 -5.033188937e+10
Gr3_re_3_2 0 s3 x3_re_a2 0 -1.900539074e+10
Gr3_im_3_2 0 s3 x3_im_a2 0 6.439417182e+10
Gd3_3 0 s3 p3 0 -0.001386687845
Fd3_3 0 s3 V3 -0.06933439225
Gr1_re_3_3 0 s3 x1_re_a3 0 -2.032335314e+11
Gr1_im_3_3 0 s3 x1_im_a3 0 -3.646687316e+10
Gr2_re_3_3 0 s3 x2_re_a3 0 1.693610172e+10
Gr2_im_3_3 0 s3 x2_im_a3 0 -5.937513398e+10
Gr3_re_3_3 0 s3 x3_re_a3 0 4.681651929e+10
Gr3_im_3_3 0 s3 x3_im_a3 0 -3.342208668e+10
Gd3_4 0 s3 p4 0 0.001062511921
Fd3_4 0 s3 V4 0.05312559605
Gr1_re_3_4 0 s3 x1_re_a4 0 -1.245798467e+11
Gr1_im_3_4 0 s3 x1_im_a4 0 -1.229544143e+11
Gr2_re_3_4 0 s3 x2_re_a4 0 3.189440853e+10
Gr2_im_3_4 0 s3 x2_im_a4 0 -785080966.2
Gr3_re_3_4 0 s3 x3_re_a4 0 1.342837808e+10
Gr3_im_3_4 0 s3 x3_im_a4 0 -7.838655043e+10
Cx1_re_a3 x1_re_a3 0 1
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562
Fx1_re_a3 0 x1_re_a3 V3 7.071067812
Rp1_re_re_a3 0 x1_re_a3 1.399967176e-12
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 5.930923456e+11
Cx1_im_a3 x1_im_a3 0 1
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -5.930923456e+11
Rp1_im_im_a3 0 x1_im_a3 1.399967176e-12
Cx2_re_a3 x2_re_a3 0 1
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562
Fx2_re_a3 0 x2_re_a3 V3 7.071067812
Rp2_re_re_a3 0 x2_re_a3 2.57107262e-12
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 1.32214295e+12
Cx2_im_a3 x2_im_a3 0 1
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -1.32214295e+12
Rp2_im_im_a3 0 x2_im_a3 2.57107262e-12
Cx3_re_a3 x3_re_a3 0 1
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562
Fx3_re_a3 0 x3_re_a3 V3 7.071067812
Rp3_re_re_a3 0 x3_re_a3 3.025545542e-12
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 1.038352332e+12
Cx3_im_a3 x3_im_a3 0 1
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -1.038352332e+12
Rp3_im_im_a3 0 x3_im_a3 3.025545542e-12
V4 p4 s4 0
R4 s4 0 50
Gd4_1 0 s4 p1 0 -0.003097367713
Fd4_1 0 s4 V1 -0.1548683856
Gr1_re_4_1 0 s4 x1_re_a1 0 7.209785398e+10
Gr1_im_4_1 0 s4 x1_im_a1 0 -6.879073295e+10
Gr2_re_4_1 0 s4 x2_re_a1 0 -2.224676351e+10
Gr2_im_4_1 0 s4 x2_im_a1 0 -5.040789069e+10
Gr3_re_4_1 0 s4 x3_re_a1 0 -1.89300638e+10
Gr3_im_4_1 0 s4 x3_im_a1 0 6.443091e+10
Gd4_2 0 s4 p2 0 -0.000806179973
Fd4_2 0 s4 V2 -0.04030899865
Gr1_re_4_2 0 s4 x1_re_a2 0 1.060468886e+11
Gr1_im_4_2 0 s4 x1_im_a2 0 -1.018345978e+11
Gr2_re_4_2 0 s4 x2_re_a2 0 -1.896657998e+10
Gr2_im_4_2 0 s4 x2_im_a2 0 7.678106061e+10
Gr3_re_4_2 0 s4 x3_re_a2 0 -4.230868875e+10
Gr3_im_4_2 0 s4 x3_im_a2 0 3.011524524e+10
Gd4_3 0 s4 p3 0 0.001062511921
Fd4_3 0 s4 V3 0.05312559605
Gr1_re_4_3 0 s4 x1_re_a3 0 -1.245798467e+11
Gr1_im_4_3 0 s4 x1_im_a3 0 -1.229544143e+11
Gr2_re_4_3 0 s4 x2_re_a3 0 3.189440853e+10
Gr2_im_4_3 0 s4 x2_im_a3 0 -785080966.3
Gr3_re_4_3 0 s4 x3_re_a3 0 1.342837808e+10
Gr3_im_4_3 0 s4 x3_im_a3 0 -7.838655043e+10
Gd4_4 0 s4 p4 0 -0.001363340479
Fd4_4 0 s4 V4 -0.06816702393
Gr1_re_4_4 0 s4 x1_re_a4 0 -2.034168681e+11
Gr1_im_4_4 0 s4 x1_im_a4 0 -3.636458648e+10
Gr2_re_4_4 0 s4 x2_re_a4 0 1.687711251e+10
Gr2_im_4_4 0 s4 x2_im_a4 0 -5.942946741e+10
Gr3_re_4_4 0 s4 x3_re_a4 0 4.679479461e+10
Gr3_im_4_4 0 s4 x3_im_a4 0 -3.345577897e+10
Cx1_re_a4 x1_re_a4 0 1
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562
Fx1_re_a4 0 x1_re_a4 V4 7.071067812
Rp1_re_re_a4 0 x1_re_a4 1.399967176e-12
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 5.930923456e+11
Cx1_im_a4 x1_im_a4 0 1
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -5.930923456e+11
Rp1_im_im_a4 0 x1_im_a4 1.399967176e-12
Cx2_re_a4 x2_re_a4 0 1
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562
Fx2_re_a4 0 x2_re_a4 V4 7.071067812
Rp2_re_re_a4 0 x2_re_a4 2.57107262e-12
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 1.32214295e+12
Cx2_im_a4 x2_im_a4 0 1
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -1.32214295e+12
Rp2_im_im_a4 0 x2_im_a4 2.57107262e-12
Cx3_re_a4 x3_re_a4 0 1
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562
Fx3_re_a4 0 x3_re_a4 V4 7.071067812
Rp3_re_re_a4 0 x3_re_a4 3.025545542e-12
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 1.038352332e+12
Cx3_im_a4 x3_im_a4 0 1
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -1.038352332e+12
Rp3_im_im_a4 0 x3_im_a4 3.025545542e-12
.ENDS bpf_le
